US08912176B2
Preparation of 1-(azetidin-3-ylcarbonyl)-4-cyclobutylpiperazine
To a stirred solution of benzyl 3-[(4-cyclobutylpiperazin-1-yl)carbonyl]azetidine-1-carboxylate (130 mg, 0.36 mmol) in EtOH (10 mL) was added 10% Pd/C (13 mg, 10% wt/wt). The flask was evacuated and the vacuum purged with N2 gas. The flask was evacuated again and the vacuum purged with H2 gas. After 16 hours the reaction mixture was filtered through Celite® and charged with 10% Pd/C (13 mg, 10% wt/wt). The flask was evacuated and the vacuum purged with N2 gas. The flask was evacuated again and the vacuum purged with H2 gas. After 23 hours, the reaction mixture was filtered through Celite® and the filtrate concentrated at reduced pressure to give the final compound (60 mg, 74%) which was used without further purification.

reactant | benzyl 3-[(4-cyclobutylpiperazin-1-yl)carbonyl]azetidine-1-carboxylate | 0.36 mmol, 130 mg | C1(CCC1)N1CCN(CC1)C(=O)C1CN(C1)C(=O)OCC1=CC=CC=C1 | C20H27N3O3
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 13 mg | [Pd] | Pd
product | 1-(azetidin-3-ylcarbonyl)-4-cyclobutylpiperazine | 60 mg, 74% | N1CC(C1)C(=O)N1CCN(CC1)C1CCC1 | C12H21N3O
